US04452788
A mixture of 4-(1,3-diethyl-2,3,6,7-tetrahydro-2,6-dioxo-1H-purin-8-yl)benzenesulfonic acid (5.0 g, 0.014 moles) and N,N-dimethylformamide (150 ml) is cooled to 0° and treated with thionyl chloride (3.3 g, 0.027 moles). When the addition is complete, the reaction mixture is permitted to warm to ambient temperature and stirred vigorously until a thick slurry results. To this slurry is added N-methylpiperazine (13.7 g, 0.137 moles) in one portion, the mixture is stirred until a clear solution is obtained, and concentrated on a rotary evaporator. The residue is taken up in water, filtered, recrystallized from ethanol, and dried at 48° to yield 5.12 grams of 1-[[4-(1,3-diethyl-2,3,6,7-tetrahydro-2,6-dioxo-1H-purin-8-yl)phenyl]sulfonyl]4-methylpiperazine, mp 305°-307° C.

reactant | 4-(1,3-diethyl-2,3,6,7-tetrahydro-2,6-dioxo-1H-purin-8-yl)benzenesulfonic acid | 0.014 moles, 5.0 g | C(C)N1C(N(C=2N=C(NC2C1=O)C1=CC=C(C=C1)S(=O)(=O)O)CC)=O | C15H16N4O5S
reactant | thionyl chloride | 0.027 moles, 3.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | N-methylpiperazine | 0.137 moles, 13.7 g | CN1CCNCC1 | C5H12N2
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 1-[[4-(1,3-diethyl-2,3,6,7-tetrahydro-2,6-dioxo-1H-purin-8-yl)phenyl]sulfonyl]4-methylpiperazine | 5.12 grams | C(C)N1C(N(C=2N=C(NC2C1=O)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)CC)=O | C20H26N6O4S
